US06162826
0.5 g (2.21 mmol) of methyl (4aS,7aS)-1-hydroxy-7-hydroxymethyl-1,4a, 5,7a-tetrahydrocyclopenta[c]pyran4carboxylate was dissolved in 10 ml of dried methylene chloride, then 0.954 g (4.42 mmol) of pyridiniumchlorochromate was added thereto. The reaction solution was stirred for 3 hours, filtered through cellite and then the filtrate was concentrated. The residue was subjected to silica gel column chromatography (eluent: n-hexane/ethylacetate=2/1, v/v) to obtain 0.376 g (Yield 76%) of methyl (4aS,7aS)-7-formyl-1-hydroxy-1,4a,5,7a-tetrahydrocyclopenta[c]pyran-4-carboxylate.

reactant | methyl (4aS,7aS)-1-hydroxy-7-hydroxymethyl-1,4a, 5,7a-tetrahydrocyclopenta[c]pyran4carboxylate | 2.21 mmol, 0.5 g | OC1OC=C([C@@H]2[C@H]1C(=CC2)CO)C(=O)OC | C11H14O5
reactant | pyridiniumchlorochromate | 4.42 mmol, 0.954 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | n-hexane ethylacetate | CCCCCC.C(C)OC(C)=O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | methyl (4aS,7aS)-7-formyl-1-hydroxy-1,4a,5,7a-tetrahydrocyclopenta[c]pyran-4-carboxylate | 0.376 g, Yield 76% | C(=O)C1=CC[C@H]2[C@@H]1C(OC=C2C(=O)OC)O | C11H12O5
